data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_516875_1,[C:1]1([C@:2]([C:6]([C:5]([H:18])([H:19])[H:20])=[O:9])([N:7]([H:12])[H:13])[H:11])([O:8][H:10])[C:3]([H:14])([H:15])[C:4]1([H:16])[H:17]>>[C:1](=[C:2](/[N:7]([H:12])[H:13])[H:11])(\[C:3]([C:4]([C:6]([C:5]([H:18])([H:19])[H:20])=[O:9])([H:16])[H:17])([H:14])[H:15])[O:8][H:10],59.14438499998624
MR_488271_0,[C:1]1([C:4]([H:13])([H:14])[H:17])([C:5]([H:15])([H:16])[H:18])[C:2]([O:7][H:8])([H:9])[C:3]1([N:6]([H:11])[H:12])[H:10]>>[C:1]([C:2](/[C:3](=[N:6]/[H:11])[H:10])([O:7][H:8])[H:9])([C:4]([H:13])([H:14])[H:17])([C:5]([H:15])([H:16])[H:18])[H:12],54.09865749999156
MR_132975_1,[C@@:1]([C:3]([H:17])([H:18])[H:19])([N:4](/[C:5]([N:6]([H:12])[H:13])=[N:8]/[C:2]([H:14])([H:15])[H:16])[H:10])([O:7][H:9])[H:11]>>[C@:1]([C:3]([H:17])([H:18])[H:19])([O:7][H:9])([N:8]([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:4]/[H:10])[N:6]([H:12])[H:13])[H:11],64.29615999999854
MR_468791_0,[C:1]([C:3]([O:5][C:2]([H:11])([H:12])[H:13])([N:7]=[C:4]([H:14])[H:15])[O:8][H:9])(=[O:6])[H:10]>>[C:1]([C:3]([O:5][C:2]([H:11])([H:12])[H:13])=[O:8])([O:6][H:9])([N:7]=[C:4]([H:14])[H:15])[H:10],45.82883499996868
MR_528430_1,[C:1]([C:2]([O:7][H:9])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:11])[H:12])[H:10])[O:6][H:8]>>[C:1]([C:2]([N:4]([N:5]([H:11])[H:12])[H:10])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([O:6][H:8])[O:7][H:9],71.65987249999063
MR_30309_2,[C:1]([N:3]([O:6][H:8])[H:10])(/[C:5](=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:7][H:9])[H:13])([H:11])[H:12]>>[C:1](=[C:5]([C:4]([C:2]([H:14])([H:15])[H:16])([N:3]([O:6][H:8])[H:10])[O:7][H:9])[H:13])([H:11])[H:12],55.22627499999814
MR_383077_0,[C@@:1](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:9]\[H:13])(/[C:6]([C:3]([H:18])([H:19])[H:20])=[C:8](\[C:4]([H:21])([H:22])[H:23])[H:14])([N:7]([H:11])[H:12])[H:10]>>[C:1](=[C:6](/[C:3]([H:18])([H:19])[H:20])[C@:8]([C:4]([H:21])([H:22])[H:23])([C:5]([C:2]([H:15])([H:16])[H:17])[N:9][H:13])[H:14])(\[N:7]([H:11])[H:12])[H:10],70.28062750001297
MR_77667_0,[C:1]([C:3]([C:5]([C:2]([N:4]([H:10])[H:11])=[O:8])([O:7][H:9])[H:12])=[O:6])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[C:5](\[O:7][H:9])[H:12])[O:6][C:2]([N:4]([H:10])[H:11])=[O:8])([H:13])([H:14])[H:15],69.49938999998793
MR_144543_0,[C:1]([C:4](/[C:3](=[C:6](\[N:5]([H:10])[H:11])[H:12])[O:8][H:9])=[C:7](/[C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:3]([O:8][H:9])[C@@:6]([N:5]([H:10])[H:11])([H:12])[C@:7]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16],51.34581499998632
MR_540327_1,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])(/[C:4](=[C:6](/[O:8][H:10])[H:13])[O:7][H:9])[N:5]([H:11])[H:12]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])=[C:4]([C@@:6]([N:5]([H:11])[H:12])([O:8][H:10])[H:13])[O:7][H:9],65.79525749999462
MR_497463_1,[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:5](\[O:7][H:8])[H:13])([O:6][N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1](=[C:3]([C:2]([H:14])([H:15])[H:16])[C@:5]([O:6][N:4]([H:9])[H:10])([O:7][H:8])[H:13])([H:11])[H:12],43.431784999992544
MR_246708_0,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:3]([N:4]([H:7])[H:8])=[C:6](/[N:5]([H:9])[H:10])[H:11])([H:12])[H:13]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:3](/[N:4]([H:7])[H:8])[C:6]([N:5]([H:9])[H:10])([H:11])[H:13])[H:12],73.23866249999952
MR_234103_0,[C:1]([C:4]([C:2]([C:3]([H:17])([H:18])[H:19])([N:7]([H:15])[H:16])[H:10])=[O:8])([N:5]([H:12])[H:13])([N:6]([H:11])[H:14])[H:9]>>[C:1]([C:2]([C:3]([H:17])([H:18])[H:19])([N:7]([H:15])[H:16])[H:10])([C:4](=[O:8])[H:9])([N:5]([H:12])[H:13])[N:6]([H:11])[H:14],30.37288249996905
MR_212081_0,[C:1]([N:4]([N:3]([C:6]([N:5]([C:2]([H:14])([H:15])[H:16])[H:10])=[C:7]([H:17])[H:18])[H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:4]([N:3]([C:6]([N:5]([C:2]([H:14])([H:15])[H:16])[H:9])=[C:7]([H:17])[H:18])[H:8])[H:10])([H:11])([H:12])[H:13],59.77251250004116
MR_554467_1,[N:1]1([H:10])[C:3]2(/[C:5](=[N:8]\[H:11])[H:13])[C:4]1([H:12])[C:2]([O:6][H:9])=[N:7]2>>[n:1]1([H:10])[c:3](/[C:5](=[N:8]\[H:11])[H:13])[n:7][c:2]([O:6][H:9])[c:4]1[H:12],27.181417500001142
MR_201805_2,[C:1]([C:2]1(/[N:4]=[N:5]/[H:8])/[C:3](=[N:7]/[H:10])[N:6]1[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3]([C:2](/[N:4]=[N:5]/[H:8])=[N:6]/[H:9])=[N:7]\[H:10])([H:11])([H:12])[H:13],62.19654499998484
MR_631614_0,[C:1](/[C:5](=[C:4](\[N:3]([H:8])[H:9])[H:12])[H:13])([O:6][O:7][C:2]([H:14])([H:15])[H:16])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:5]([C:4]([N:3]([H:8])[H:9])([O:7][C:2]([H:14])([H:15])[H:16])[H:12])([H:13])[O:6]1,54.64771999999641
MR_153408_2,[C@:1]1([C:3]([O:5][H:7])=[O:6])([H:8])[C:2]([H:9])([H:10])[O:4]1>>[C:1]([C:2]([C:3]([O:5][H:7])=[O:6])([H:9])[H:10])(=[O:4])[H:8],64.90985499998288
MR_209025_1,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])(/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]\[H:11])[O:8][H:9])(=[O:6])[H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4](/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]\[H:11])=[O:8])([O:6][H:9])[H:10],47.3875449999926
